US08193377B2
(E)-3-[2,4-Bis(benzyloxy)-6-hydroxyphenyl]-1-phenyl-propene (#a)
Following the procedure in the literature (Li, L.; Chan, T. H. Org. Lett. 2001, 5, 739), cinnamyl alcohol was reacted with 3,5-dibenzyloxyphenol to yield (#a) as a white solid (62% yield); mp 76-78° C.; 1H NMR (CDCl3, 400 MHz) δ 7.40-7.24 (m, 15H), 6.48 (A of AB, J=15.9 Hz, 1H), 6.35 (B of ABt, J=15.9, 5.5 HZ, 1H), 6.27 (d, J=2.1 Hz, 1H), 6.16 (d, J=2.1 Hz, 1H), 5.07 (s, 1H), 5.02 (s, 2H), 4.99 (s, 2H), 3.59-3.57 (d, J=5.5 Hz, 2 H); 13C NMR (CDCl3, 400 MHz) δ 158.5, 157.6, 155.4, 137.0, 136.8, 136.6, 130.2, 128.3, 128.2, 128.1, 128.0, 127.8, 127.6, 127.3, 127.0, 126.8, 125.8, 106.6, 94.8, 93.4, 70.1, 69.9, 26.2; HRMS (ESI) calcd for C29H26O3Na (M+Na) 445.1780. found 445.1793.

reactant | cinnamyl alcohol | C(C=CC1=CC=CC=C1)O | C9H10O
reactant | 3,5-dibenzyloxyphenol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)O | C20H18O3
product | (E)-3-[2,4-Bis(benzyloxy)-6-hydroxyphenyl]-1-phenyl-propene | 62% yield | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)OCC1=CC=CC=C1)O)C/C=C/C1=CC=CC=C1 | C29H26O3
